US09062038B2
To a solution of Ethyl isocyanoacetate (1.00 mL, 9.15 mmol) in Tetrahydrofuran (43 mL) at −78° C. was added 2.5 M n-Butyllithium (9.15 mmol, 9.15 mmol) in hexanes under argon. The mixture was stirred for 20 min. 4-Chlorophenylacetyl chloride (0.753 g, 3.98 mmol) in Tetrahydrofuran (11 mL, 130 mmol) was added at the same temperature. After 1 h, the temperature was raised to rt and then quenched by acetic acid (0.38 g, 6.3 mmol). The mixture was washed with saturated sodium bicarbonate and brine. The organic layer was collected and dried over sodium sulfate. After evaporation, the mixture was purified by chromatography to afford ethyl 5-(4-chlorobenzyl)-1,3-oxazole-4-carboxylate (0.83 g, 78%). LCMS: (FA) ES+ 266.3.

reactant | Ethyl isocyanoacetate | 9.15 mmol, 1.00 mL | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | n-Butyllithium | 9.15 mmol, 2.5 M | C(CCC)[Li]
reactant | 4-Chlorophenylacetyl chloride | 3.98 mmol, 0.753 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | acetic acid | 6.3 mmol, 0.38 g | C(C)(=O)O | C2H4O2
solvent | Tetrahydrofuran | 43 mL | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 130 mmol, 11 mL | O1CCCC1 | C4H8O
product | ethyl 5-(4-chlorobenzyl)-1,3-oxazole-4-carboxylate | 0.83 g, 78% | ClC1=CC=C(CC2=C(N=CO2)C(=O)OCC)C=C1 | C13H12ClNO3
